US09029366B2
3-(bromomethyl)benzonitrile (0.086 g, 0.44 mmol) was added to a stirred suspension of 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol (0.105 g, 0.4 mmol) and Cs2CO3 (0.261 g, 0.8 mmol) in ACN (2 mL). The mixture was stirred at room temperature for 16 hours, then diluted with water and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 50/50). The desired fractions were collected, the solvents evaporated in vacuo and the residue triturated with DIPE to yield 3-[({5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl}oxy)methyl]benzonitrile (0.089 g, 59% yield) as a white solid. C21H17FN4O2. 1H NMR (500 MHz, CDCl3) δ ppm 4.08 (br. s., 4 H), 4.74 (br. s., 2 H), 5.22 (s, 2 H), 5.51 (br. s., 1 H), 7.15 (t, J=8.5 Hz, 2 H), 7.44-7.51 (m, 3 H), 7.60 (d, J=7.8 Hz, 1 H), 7.65 (d, J=7.8 Hz, 1 H), 7.74 (s, 1 H).

reactant | 3-(bromomethyl)benzonitrile | 0.44 mmol, 0.086 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | 5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-ol | 0.4 mmol, 0.105 g | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)O | C13H12FN3O2
reactant | Cs2CO3 | 0.8 mmol, 0.261 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ACN | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-[({5-[(4-fluorophenyl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl}oxy)methyl]benzonitrile | 0.089 g, 59% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2)OCC=2C=C(C#N)C=CC2 | C21H17FN4O2
